** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/osc.sch
**.subckt osc VDD vout ictrl VSS
*.iopin VDD
*.iopin VSS
*.ipin ictrl
*.opin vout
x1 net1 ictrl VSS net2 nmos_current_mirror2
x2 net4 net1 VDD vout pmos_current_mirror2
x4 net3 net2 VDD pmos_current_mirror1
x5 net4 net3 VSS vout nmos_current_mirror2
C2 vout VSS 1p
x3 VDD VSS net6 VSS low_th_inverter
x6 VDD VDD net5 VSS high_th_inverter
XM1 net7 net5 VSS VSS sg13_hv_nmos w=20.0u l=1.0u ng=20 m=1 mm_ok=1
XM2 net8 net6 VDD VDD sg13_hv_pmos w=20.0u l=1.0u ng=20 m=1 mm_ok=1
XM3 net3 net4 VSS VSS sg13_hv_nmos w=20.0u l=1.0u ng=20 m=1 mm_ok=1
XM4 net1 net4 VDD VDD sg13_hv_pmos w=20.0u l=1.0u ng=20 m=1 mm_ok=1
vc net4 VSS PULSE(0 3.3 0 100p 100p 50n 100n)
**.ends

* expanding   symbol:  nmos_current_mirror2.sym # of pins=4
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/nmos_current_mirror2.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/nmos_current_mirror2.sch
.subckt nmos_current_mirror2 i_out1 i_in VSS i_out2
*.ipin i_in
*.opin i_out1
*.iopin VSS
*.opin i_out2
XM1 i_out1 i_in VSS VSS sg13_hv_nmos w=40.0u l=10.0u ng=5 m=1 mm_ok=1
XM2 i_in i_in VSS VSS sg13_hv_nmos w=40.0u l=10.0u ng=5 m=1 mm_ok=1
XM3 i_out2 i_in VSS VSS sg13_hv_nmos w=40.0u l=10.0u ng=5 m=1 mm_ok=1
.ends


* expanding   symbol:  pmos_current_mirror2.sym # of pins=4
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/pmos_current_mirror2.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/pmos_current_mirror2.sch
.subckt pmos_current_mirror2 i_out1 i_in VDD i_out2
*.ipin i_in
*.opin i_out1
*.iopin VDD
*.opin i_out2
XM2 i_out1 i_in VDD VDD sg13_hv_pmos w=80.0u l=10.0u ng=10 m=1 mm_ok=1
XM1 i_in i_in VDD VDD sg13_hv_pmos w=80.0u l=10.0u ng=10 m=1 mm_ok=1
XM3 i_out2 i_in VDD VDD sg13_hv_pmos w=80.0u l=10.0u ng=10 m=1 mm_ok=1
.ends


* expanding   symbol:  pmos_current_mirror1.sym # of pins=3
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/pmos_current_mirror1.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/pmos_current_mirror1.sch
.subckt pmos_current_mirror1 i_out i_in VDD
*.ipin i_in
*.opin i_out
*.iopin VDD
XM2 i_out i_in VDD VDD sg13_hv_pmos w=80.0u l=10.0u ng=10 m=1 mm_ok=1
XM1 i_in i_in VDD VDD sg13_hv_pmos w=80.0u l=10.0u ng=10 m=1 mm_ok=1
.ends


* expanding   symbol:  low_th_inverter.sym # of pins=4
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/low_th_inverter.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/low_th_inverter.sch
.subckt low_th_inverter VDD vin vout VSS
*.ipin vin
*.iopin VDD
*.iopin VSS
*.opin vout
XMdummy1 VSS VSS VSS VSS sg13_hv_nmos w=2.0u l=1.0u ng=2 m=1 mm_ok=1
XMdummy2 VDD VDD VDD VDD sg13_hv_pmos w=2.0u l=1.0u ng=2 m=1 mm_ok=1
XM1 vout vin VSS VSS sg13_hv_nmos w=20.0u l=1.0u ng=20 m=1 mm_ok=1
XM2 vout vin VDD VDD sg13_hv_pmos w=20.0u l=1.0u ng=20 m=1 mm_ok=1
.ends


* expanding   symbol:  high_th_inverter.sym # of pins=4
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/high_th_inverter.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/high_th_inverter.sch
.subckt high_th_inverter VDD vin vout VSS
*.ipin vin
*.iopin VDD
*.iopin VSS
*.opin vout
XMdummy1 VSS VSS VSS VSS sg13_hv_nmos w=0.6u l=1.0u ng=2 m=1 mm_ok=1
XMdummy2 VDD VDD VDD VDD sg13_hv_pmos w=12.0u l=1.0u ng=2 m=1 mm_ok=1
XM1 vout vin VSS VSS sg13_hv_nmos w=6.0u l=1.0u ng=20 m=1 mm_ok=1
XM2 vout vin VDD VDD sg13_hv_pmos w=120.0u l=1.0u ng=20 m=1 mm_ok=1
.ends

.end
